US07507739B2
To a mixture of sodium hydride (60% in mineral oil, 334 mg, 8.35 mmol) in 10 mL of dimethylsulfoxide at room temperature is added 3-(methylamino)propan-1-ol (744 mg, 8.35 mmol). The mixture is stirred at room temperature for 1 h, and a solution of 7-cycloheptyl-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidin-5-ol (1.12 g, 3.1 mmol) in 10 mL of dimethylsulfoxide is added. The mixture is stirred at room temperature for 6 h, and a solution of di-tert-butyl dicarbonate (1.82 g, 8.35 mmol) in 10 mL of dimethylsulfoxide is added. The mixture is stirred at room temperature for 18 h and diluted with ethyl acetate. The organic layer is washed with water (x2) and saturated sodium chloride, dried over magnesium sulfate, and concentrated to a residue. The residue is chromatographed over silica gel, eluting with a gradient of 30% ethyl acetate in hexanes to 70% ethyl acetate in hexanes. Concentration provides tert-butyl 3-[4-(7-cycloheptyl-5-hydroxy[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)-3,5-difluorophenoxy]propyl(methyl)carbamate as a yellow solid (876 mg). MS: m/z 530.4 (M−H).

reactant | sodium hydride | 8.35 mmol, 334 mg | [H-].[Na+]
reactant | 3-(methylamino)propan-1-ol | 8.35 mmol, 744 mg | CNCCCO | C4H11NO
reactant | 7-cycloheptyl-6-(2,4,6-trifluorophenyl)[1,2,4]triazolo[1,5-a]pyrimidin-5-ol | 3.1 mmol, 1.12 g | C1(CCCCCC1)C1=C(C(=NC=2N1N=CN2)O)C2=C(C=C(C=C2F)F)F | C18H17F3N4O
reactant | di-tert-butyl dicarbonate | 8.35 mmol, 1.82 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 3-[4-(7-cycloheptyl-5-hydroxy[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)-3,5-difluorophenoxy]propyl(methyl)carbamate | 876 mg | C1(CCCCCC1)C1=C(C(=NC=2N1N=CN2)O)C2=C(C=C(OCCCN(C(OC(C)(C)C)=O)C)C=C2F)F | C27H35F2N5O4
